US05496942
In 53 ml of azetonitrile were added 5.3 g of 4,5,6,7-tetrahydrobenzimidazole-5-carboxylic acid sulfate and 2.9 ml of thionyl chloride, and the mixture was stirred at 53° to 55° C. for 1.5 hours. The mixture was distilled under reduced pressure to remove 10 to 15 ml of the solvent. After 15 ml of acetonitrile was added thereto, the mixture was further distilled under reduced pressure to remove 10 to 15 ml of the solvent. The residual solution was added dropwise to a solution of 14.2 g of pyrrolidine in 50 ml of acetonitrile at 2° C. or lower. After the addition, the temperature was returned to room temperature, and the mixture was stirred for 1 hour, followed by concentration under reduced pressure. To the residue was added 30 ml of a saturated sodium chloride aqueous solution, and the mixture was extracted with chloroform (50 ml×3). The chloroform layer was dried over anhydrous magnesium sulfate, concentrated under reduced pressure, treated with hydrochloric acid in ethanol, and recrystallized from ethanol/ethyl acetate to obtain 4.25 g (82.9%) of N-[(4,5,6,7-tetrahydrobenzimidazol-5-yl)carbonyl]pyrrolidine hydrochloride.

reactant | 4,5,6,7-tetrahydrobenzimidazole-5-carboxylic acid sulfate | 5.3 g | S(=O)(=O)(O)O.N1=CNC2=C1CCC(C2)C(=O)O
reactant | thionyl chloride | 2.9 ml | S(=O)(Cl)Cl | Cl2OS
reactant | azetonitrile | 53 ml | N1=C(C=C1)C#N | C4H2N2
product | N-[(4,5,6,7-tetrahydrobenzimidazol-5-yl)carbonyl]pyrrolidine hydrochloride | 4.25 g, 82.9% | Cl.N1=CNC2=C1CCC(C2)C(=O)N2CCCC2 | InChI=1S/C12H17N3O.ClH/c16-12(15-5-1-2-6-15)9-3-4-10-11(7-9)14-8-13-10;/h8-9H,1-7H2,(H,13,14);1H
